US06090825
To a slurry of 1-Acetyl-piperidine-4-carboxylic acid [2-(4-fluoro-phenyl)-1-hydroxymethyl-2-oxo-ethyl]-amide, prepared as in Part B, (100 g, 0.30 mol) and pyridine (100 mL, 1.20 mole) in dichloromethane (900 mL) at -40° C. is added trifluoroacetic anhydride (200 mL, 1.40 mole) over 1.5 hrs. The reaction is allowed to warm to -10° C. over 2 hrs and stirred at -10° C. for 1.5 hrs. Water (200 mL) is added, keeping the temperature at 0°--5° C. The layers are separated and the dichloromethane is washed with water (6×400 mL), dried (MgSO4) and concentrated to a yellow oil. The oil is taken up in methanol (600 mL) and silica gel (100 g) is added and the mixture stirred at 20° C. for 16 hrs. The silica gel is removed by filtration, rinsed with methanol (400 mL) and the filtrate is concentrated. Ether (500 mL) is added to the residue and stirred for 2 hrs and the resulting solid is filtered to afford 1-(4-[5-(4-fluoro-phenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidin-1-yl)-ethanone as a pale yellow solid.

reactant | 1-Acetyl-piperidine-4-carboxylic acid [2-(4-fluoro-phenyl)-1-hydroxymethyl-2-oxo-ethyl]-amide | FC1=CC=C(C=C1)C(C(CO)NC(=O)C1CCN(CC1)C(C)=O)=O | C17H21FN2O4
reactant | pyridine | 1.20 mole, 100 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 1.40 mole, 200 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Water | 200 mL | O | H2O
solvent | dichloromethane | 900 mL | ClCCl | CH2Cl2
product | 1-(4-[5-(4-fluoro-phenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidin-1-yl)-ethanone | FC1=CC=C(C=C1)C1=C(N=C(O1)C1CCN(CC1)C(C)=O)CO | C17H19FN2O3
